* C:\Users\subha\OneDrive\Documents\GitHub\PMIC_Final_Project_Fall_Buck_Converter\Behavioral_Schematic.asc
V1 N001 0 PULSE(0 1.8 0 1n)
L1 N007 N008 0.47µ Rser=32m
C1 N008 0 47µ Lser=1n
M1 N007 N005 N001 N001 CMOSP l=180n w=100u m=500
M2 N007 N010 0 0 CMOSN l=180n w=100u m=200
I1 N008 0 PULSE(0 100m 200u)
A1 0 0 N002 N003 0 N004 0 0 AND Vhigh=1.8,Vlow=0
A2 0 0 N009 N011 0 0 N006 0 AND Vhigh=1.8,Vlow=0
A3 N002 0 0 0 0 N011 0 0 BUF Vhigh=1.8,Vlow=0
A4 N006 0 0 0 0 N003 0 0 BUF Vhigh=1.8,Vlow=0,Td=10n
A5 N004 0 0 0 0 0 N009 0 BUF Vhigh=1.8,Vlow=0,Td=10n
A6 N004 0 0 0 0 0 N005 0 BUF Vhigh=1.8, Vlow=0, Trise = {trf}, Tfall = {trf}
A7 N006 0 0 0 0 0 N010 0 BUF Vhigh=1.8, Vlow=0, Trise = {trf}, Tfall = {trf}
V2 N015 0 PULSE(0 0.7 0 1n)
V3 N013 0 PULSE(0 1.8 0 62.5n 62.5n 0u 125n)
G1 0 N012 N014 N015 100
A8 N013 N012 0 0 0 0 N002 0 SCHMITT Vhigh=1.8, Vlow=0, Vt=0
R3 N008 N014 10k
R4 N014 0 10k
C2 N012 0 4.76m
R1 N012 0 100k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m
.include tsmc018.lib
.param td 1n
.param trf 1n
* Putting 1nH ESL in capacitor makes the loop unstable.
.backanno
.end
